US08193187B2
8-Hydroxymethyl-7-(2-methoxy-4-methoxymethoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 9)
Lithium aluminium hydride (753 mg, 19.8 mmol) was suspended in anhydrous tetrahydrofuran (60 mL) under nitrogen atmosphere. An anhydrous tetrahydrofuran solution (20 mL) of 8-methoxycarbonyl-7-(2-methoxy-4-methoxymethoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 8-7, 4.87 g, 12.2 mmol) was added dropwise thereto at −10° C., and stirred for 40 minutes at the same temperature. After ethyl acetate (10 mL), water (10 mL), and 2N aqueous hydrochloride solution (15 mL) were added to the reaction mixture successively, ethyl acetate (300 mL) were added thereto. Water (300 mL) was added and the whole was partitioned. The organic layer was washed with saturated brine (400 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (1.86 g) as a yellow solid. (Yield 41%)

reactant | Lithium aluminium hydride | 19.8 mmol, 753 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-methoxycarbonyl-7-(2-methoxy-4-methoxymethoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 12.2 mmol, 4.87 g | COC(=O)C=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=C(C=C1)OCOC)OC | C21H24N2O6
reactant | hydrochloride | 2N, 15 mL | Cl | ClH
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Water | 300 mL | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 8-Hydroxymethyl-7-(2-methoxy-4-methoxymethoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 1.86 g, Yield 41% | OCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=C(C=C1)OCOC)OC | C20H24N2O5
